US07994185B2
2,5-difluoro-N-{2-fluoro-3-[5-(2-methyl-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
Following a procedure analogous to the procedure described in Example 25 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (150 mg, 0.265 mmol) and 2N dimethylzinc in toluene ((0.265 mL, 0.529 mmol), the title compound was obtained as a solid (116 mg, 73% yield). MS (ESI): 547 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.265 mmol, 150 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C24H18ClF3N4O3S2
reactant | dimethylzinc | 2N | C[Zn]C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,5-difluoro-N-{2-fluoro-3-[5-(2-methyl-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | FC1=C(C=C(C=C1)F)S(=O)(=O)NC1=C(C(=CC=C1)C=1N=C(SC1C1=NC(=NC=C1)C)C1CCOCC1)F | C25H21F3N4O3S2
